US05521170
A solution of 5-(4-[2-(4-methylphenyl)benzoylamino]-benzoyl}-1,3,4,5-tetrahydro-1,5-benzodiazepine-2(2H)thione (460 mg), 3-dimethylaminopropyl chloride hydrochloride (740 mg), potassium carbonate (1.29 g) and sodium iodide (catalytic amount) in acetone (40 ml) was stirred for 19 hours at 60° C. The mixture was filtered and the filtrate was evaporated. The residue was purified by column chromatography (SiO2 30 g, 5% methanol in chloroform) to give 2-[3-(dimethylamino)propylthio]-5-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-4,5-dihydro-3H-1,5benzodiazepine (200 mg).

reactant | 5-(4-[2-(4-methylphenyl)benzoylamino]-benzoyl}-1,3,4,5-tetrahydro-1,5-benzodiazepine-2(2H)thione | 460 mg | CC1=CC=C(C=C1)C1=C(C(=O)NC2=CC=C(C(=O)N3CCC(NC4=C3C=CC=C4)=S)C=C2)C=CC=C1 | C30H25N3O2S
reactant | 3-dimethylaminopropyl chloride hydrochloride | 740 mg | Cl.CN(CCCCl)C
reactant | potassium carbonate | 1.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 2-[3-(dimethylamino)propylthio]-5-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-4,5-dihydro-3H-1,5benzodiazepine | 200 mg | CN(CCCSC=1CCN(C2=C(N1)C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C2=CC=C(C=C2)C)=O)=O)C | C35H36N4O2S
